US20010003782A1
3β-tert-Butyldimethylsilyloxy-4,4-dimethyl-5α-chola-8,14-dien-24 oic acid (0.15 g) is reacted with aniline following the procedure outlined in example 10 and reduced with lithium aluminum hydride (0.15 g) in THF at room temperature. Aqueous work-up and crystallization from methanol gives 3β-tert-butyldimethylsilyloxy-4,4-dimethyl-24-phenylamino-5α-chola-8,14-dien (106 mg). 1H-NMR (CDCl13, 300 MHz)): δ=7.17 (2H, t); 6.69 (1H, t); 6.6 (2H, d); 5.35 (1H, s); 3.6 (1H, s); 3.2 (1H, m); 3.09 (2H, m); 0.9 (9H, s); 0.04 (6H, m).

reactant | 3β-tert-Butyldimethylsilyloxy-4,4-dimethyl-5α-chola-8,14-dien-24 oic acid | 0.15 g | [Si](C)(C)(C(C)(C)C)O[C@@H]1C([C@@H]2CCC=3C4=CC[C@H]([C@@H](CCC(=O)O)C)[C@]4(CCC3[C@]2(CC1)C)C)(C)C | C32H54O3Si
reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | lithium aluminum hydride | 0.15 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | C1CCOC1 | C4H8O
product | 3β-tert-butyldimethylsilyloxy-4,4-dimethyl-24-phenylamino-5α-chola-8,14-dien | 106 mg | [Si](C)(C)(C(C)(C)C)O[C@@H]1C([C@@H]2CCC=3C4=CC[C@H]([C@@H](CCCNC5=CC=CC=C5)C)[C@]4(CCC3[C@]2(CC1)C)C)(C)C | C38H61NOSi
